US08580777B2
E. (R)-3-(2-Aminoethanesulfonyl)-2-[3-((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-yl)ureido]propionic acid
83 mg of 5% palladium/C were added to a solution of 198 mg (0.26 mmol) of benzyl (R)-3-(2-benzyloxycarbonylaminoethanesulfonyl)-2-[3-((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-yl)ureido]propionate in 10 ml of methanol, and the mixture was hydrogenated under a hydrogen atmosphere (balloon pressure). After leaving to stand for 2 days, the mixture was filtered, concentrated and purified by preparative HPLC. The required fractions were combined and freeze dried after addition of 1N hydrochloric acid. 23 mg of the title compound were obtained as hydrochloride.

reactant | benzyl (R)-3-(2-benzyloxycarbonylaminoethanesulfonyl)-2-[3-((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-yl)ureido]propionate | 0.26 mmol, 198 mg | C(C1=CC=CC=C1)OC(=O)NCCS(=O)(=O)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)N[C@H]1C(N[C@H](COCCCCOC=2C=CC(C1)=CC2)C(C)C)=O | C39H50N4O10S
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium | 83 mg | [Pd] | Pd
product | (R)-3-(2-Aminoethanesulfonyl)-2-[3-((9S,12R)-9-isopropyl-11-oxo-2,7-dioxa-10-azabicyclo[12.2.2]octadeca-1(17),14(18),15-trien-12-yl)ureido]propionic acid | 23 mg | NCCS(=O)(=O)C[C@@H](C(=O)O)NC(=O)N[C@H]1C(N[C@H](COCCCCOC=2C=CC(C1)=CC2)C(C)C)=O | C24H38N4O8S
